US06635640B2
5-{3-[3,5-Dimethyl-4-(4-methylpiperazine-1-carbonyl)-1H-pyrrol-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indol-4-yl}-nicotinic Acid
A mixture of 5-(2-oxo-2,3-dihydro-1H-indol-4-yl)-nicotinic acid (381 mg, 1.5 mmol), 3,5-dimethyl-4-(4-methylpiperazine-1-carbonyl)-1H-pyrrole-2-carbaldehyde (374 mg, 1.5 mmol) and piperidine (1 mL) in ethanol (5 mL) was heated in a sealed cube at 60° C. for 5 hours. The reaction was acidified with 1N HCl and the resulted precipitate was collected by vacuum filtration, washed with water and dried to give the title compound.

reactant | 5-(2-oxo-2,3-dihydro-1H-indol-4-yl)-nicotinic acid | 1.5 mmol, 381 mg | O=C1NC2=CC=CC(=C2C1)C=1C=NC=C(C(=O)O)C1 | C14H10N2O3
reactant | 3,5-dimethyl-4-(4-methylpiperazine-1-carbonyl)-1H-pyrrole-2-carbaldehyde | 1.5 mmol, 374 mg | CC1=C(NC(=C1C(=O)N1CCN(CC1)C)C)C=O | C13H19N3O2
reactant | piperidine | 1 mL | N1CCCCC1 | C5H11N
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 5-{3-[3,5-Dimethyl-4-(4-methylpiperazine-1-carbonyl)-1H-pyrrol-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indol-4-yl}-nicotinic Acid | CC1=C(NC(=C1C(=O)N1CCN(CC1)C)C)C=C1C(NC2=CC=CC(=C12)C=1C=NC=C(C(=O)O)C1)=O | C27H27N5O4
